US06492416B1
To a stirred solution of 2-(3-fluorophenyl)-1-{4-(methylthio)phenyl}-ethan-1-one (100 g) in 1 L dry THF, was added portion-wise 26 g of 95 % sodium hydride at 0° C. The reaction solution was stirred at the same temperature for 1 hour. Then 69 g of α-bromo-isobutyryl cyanide diluted in 25 ml dry THF was added dropwise to the stirred solution at 0° C. The reaction mixture was stirred overnight while allowing to warm gradually to room temperature. The solution was concentrated in vacuo, to which was added 50 ml water. The aqueous solution was extracted with ethylacetate (1 L). The organic layer was concentrated in vacuo and purified by column chromatography (hexane/ethylacetate=6:1) to give 102 g of 2,2-dimethyl-4-(3-fluorophenyl)-5-{4-(methylthio)phenyl}-3(2H)-furanone. mp: 106° C. NMR: δ1.55 (s, 6H), 2.50 (s. 3H), 6.97-7.11 (m, 3H), 7.18 (d, J=9.0 Hz, 2H), 7.26-7.36 (m, 1H), 7.55 (d, J=9.0 Hz, 2H).

reactant | 2-(3-fluorophenyl)-1-{4-(methylthio)phenyl}-ethan-1-one | 100 g | FC=1C=C(C=CC1)CC(=O)C1=CC=C(C=C1)SC | C15H13FOS
reactant | sodium hydride | 26 g | [H-].[Na+]
reactant | α-bromo-isobutyryl cyanide | 69 g | BrC(C(=O)C#N)(C)C | C5H6BrNO
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2,2-dimethyl-4-(3-fluorophenyl)-5-{4-(methylthio)phenyl}-3(2H)-furanone | 102 g | CC1(OC(=C(C1=O)C1=CC(=CC=C1)F)C1=CC=C(C=C1)SC)C | C19H17FO2S
